US08912210B2
Step B: tert-Butyl[5-(4-chlorophenyl)-6-methyl-2-oxopiperidin-3-yl]carbamate
To a solution of methyl 2-[(tert-butoxycarbonyl)amino]-4-(4-chlorophenyl)-5-oxohexanoate (21.6 g, 58.4 mmol) in methanol (200 mL) were added ammonium acetate (45.0 g, 584 mmol), acetic acid (50.2 mL, 876 mmol), and sodium cyanoborohydride (5.51 g, 87.7 mmol). The mixture was heated at 60° C. for a total of 4 h. The mixture was then allowed to cool to ambient temperature and sodium bicarbonate and water were added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Ethanol (240 mL) and potassium carbonate (40.4 g, 292 mmol) were added. The mixture was stirred 1.5 h at 60° C. to effect epimerization to the desired epimer. Water was added followed by extraction with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol with 0.1% ammonium hydroxide) gave the title compound as a mixture of isomers. MS: m/z=361.2 (M+Na).

reactant | methyl 2-[(tert-butoxycarbonyl)amino]-4-(4-chlorophenyl)-5-oxohexanoate | 58.4 mmol, 21.6 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C(C)=O)C1=CC=C(C=C1)Cl | C18H24ClNO5
reactant | ammonium acetate | 584 mmol, 45.0 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 876 mmol, 50.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 87.7 mmol, 5.51 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | potassium carbonate | 292 mmol, 40.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
solvent | Water | O | H2O
solvent | Ethanol | 240 mL | C(C)O | C2H6O
product | tert-Butyl[5-(4-chlorophenyl)-6-methyl-2-oxopiperidin-3-yl]carbamate | C(C)(C)(C)OC(NC1C(NC(C(C1)C1=CC=C(C=C1)Cl)C)=O)=O | C17H23ClN2O3
